US05665718
1.30 g (0.0034 mol) of 3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo [1,5-a]-[1,4]benzodiazepin-6-one in 20 ml of ethanol were treated with 0.79 ml (0.0037 mol) of 4.78N ethanolic hydrochloric acid. Crystals separated after the addition of 100 ml of ether. There were obtained 1.28 g (90%) of 3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6- dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride as white crystals; m.p. 220°-223° (dec.).

reactant | 3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo [1,5-a]-[1,4]benzodiazepin-6-one | 0.0034 mol, 1.30 g | C(C)N(CC)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C19H21FN6O2
reactant | hydrochloric acid | 0.0037 mol, 4.78N, 0.79 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6- dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 1.28 g, 90% | Cl.C(C)N(CC)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | InChI=1S/C19H21FN6O2.ClH/c1-4-25(5-2)10-16-22-18(23-28-16)17-15-9-24(3)19(27)13-8-12(20)6-7-14(13)26(15)11-21-17;/h6-8,11H,4-5,9-10H2,1-3H3;1H
